### PR TITLE
[Merged by Bors] - feat(Data/List/Sigma): Lemmas relating `List.dlookup` and `List.append`

### PR DESCRIPTION
**Pull request by vihdzp**
---

Conflicts with #15928 but can be merged in any order.

Both of these lemmas are used in my development of the Cantor normal form.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Sigma.lean [hunk 1]
```diff
@@ -282,6 +282,24 @@ theorem perm_lookupAll (a : α) {l₁ l₂ : List (Sigma β)} (nd₁ : l₁.Nodu
     (p : l₁ ~ l₂) : lookupAll a l₁ = lookupAll a l₂ := by
   simp [lookupAll_eq_dlookup, nd₁, nd₂, perm_dlookup a nd₁ nd₂ p]
 
+theorem dlookup_append_of_not_mem_left {l₀ : List (Sigma β)} {a : α} (h : a ∉ l₀.keys)
+    (l₁ : List (Sigma β)) : (l₀ ++ l₁).dlookup a = l₁.dlookup a := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Sigma.lean:286]: Is this true more generally as
```suggestion
theorem dlookup_append_of_not_mem_left {l₀ : List (Sigma β)} {a : α}
    (l₁ : List (Sigma β)) : (l₀ ++ l₁).dlookup a = l₀.dlookup a <|> l₁.dlookup a := by
```

Comment (vihdzp) [reply Mathlib/Data/List/Sigma.lean]: Yeah! That's a much nicer way to state it.

**Review by eric-wieser — APPROVED** [review]
I pushed some tweaks, from least to most opinionated:
* Arguments to lemmas about `=` are usually explicit
* `induction` is now preferred to `induction'`
* `iterate` makes the proof a little harder to inspect, and `rfl` is usually worse than finding the right lemma if you're already using other lemmas
* `Decidable.eq_or_ne` saves needing `Classical.choice`, but no one really cares

Feel free to revert either of the last two if you disagree with them

bors d+

**Comment by vihdzp** [comment]
I like this statement a lot better.

bors r+
